US07834195B2
Atorvastatin calcium (5 g) was dissolved in racemic propylene glycol followed by the addition of 7 parts of ethyl acetate. The resulting mixture was warmed to 55-60° C. and stirred for 8-10 hours to afford a white suspension. The suspension was cooled to 20-25° C. and filtered to provide 3.3 g of atorvastatin calcium propylene glycol solvate after drying under vacuum at 50-60° C. Propylene glycol content: 6% by NMR.

reactant | Atorvastatin calcium | 5 g | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4.[Ca+2]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | racemic propylene glycol | C(C(C)O)O | C3H8O2
product | atorvastatin calcium propylene glycol solvate | 3.3 g | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C2=CC=C(C=C2)F)C3=CC=CC=C3)C(=O)NC4=CC=CC=C4.CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)[O-])O)O)C2=CC=C(C=C2)F)C3=CC=CC=C3)C(=O)NC4=CC=CC=C4.CC(CO)O.[Ca+2] | InChI=1S/2C33H35FN2O5.C3H8O2.Ca/c2*1-21(2)31-30(33(41)35-25-11-7-4-8-12-25)29(22-9-5-3-6-10-22)32(23-13-15-24(34)16-14-23)36(31)18-17-26(37)19-27(38)20-28(39)40;1-3(5)2-4;/h2*3-16,21,26-27,37-38H,17-20H2,1-2H3,(H,35,41)(H,39,40);3-5H,2H2,1H3;/q;;;+2/p-2/t2*26-,27-;;/m11../s1
